series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
R1 in a 1018.014588
R2 a b 1977.61916
R3 a b 2947.752122
C4 b 0 8.03e-06
.op
.control
run
print v(a) v(b) v(in)
print @r1[i] @r2[i] @r3[i]
.endc
.end
